US04299769
To a mixture of 0.01 mole of 4-(2-thenoyl)crotonic acid in 50 ml. of tetrahydrofuran is added 0.011 mole of N,N'-carbonyldiimidazole. After stirring for 2 hours, L-proline (0.01 mole) is added and the mixture is stirred for 24 hours at room temperature and refluxed for one hour to give 1-[4-(2-thenoyl)crotonyl]-L-proline.

reactant | 4-(2-thenoyl)crotonic acid | 0.01 mole | C1(=CC=CS1)C(=O)C/C=C/C(=O)O | C9H8O3S
reactant | L-proline | 0.01 mole | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[4-(2-thenoyl)crotonyl]-L-proline | C1(=CC=CS1)C(=O)C/C=C/C(=O)N1[C@H](C(=O)O)CCC1 | C14H15NO4S
